US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (148 mg, 1.0 mmol) was dissolved in absolute ethanol (8 mL), then triethylamine (180 μL, 1.3 mmol) and 2-(bromomethyl)-3-chloro-1-benzothiophene (300 mg, 1.2 mmol) were added. The mixture was stirred overnight at room temperature. The precipitate was filtered, washed with ethanol and water and then diethyl ether, and dried in vacuo to afford to 2-{[(3-chloro-1-benzothiophen-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (195 mg, 58% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.27 (s, 3H), 4.72 (s, 2H), 5.69 (s, 1H), 6.07 (bs, 1H), 7.43-7.53 (m, 2H), 7.73-7.76 (m, 1H), 7.97-8.00 (m, 1H), 12.29 (bs, 1H); LRMS (ES+) m/z 323 (100%, M+1), 325 (35%, M+3).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.0 mmol, 148 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 1.3 mmol, 180 μL | C(C)N(CC)CC | C6H15N
reactant | 2-(bromomethyl)-3-chloro-1-benzothiophene | 1.2 mmol, 300 mg | BrCC=1SC2=C(C1Cl)C=CC=C2 | C9H6BrClS
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2-{[(3-chloro-1-benzothiophen-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 195 mg, 58% yield | ClC1=C(SC2=C1C=CC=C2)CSC2=NC(=CC(=N2)O)C | C14H11ClN2OS2
